US06750348B1
N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(8-Fluoro-1,2,3,4-tetrahydro-2-naphthalenyl)-1,4-benzenedimethanamine.
Following General Procedure B: Reaction of 8-fluoro-2-tetralone (159 mg, 0.97 mmol), N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-1,4-benzenedimethanamine (400 mg, 0.97 mmol) and NaBH(OAc)3 (411 mg, 1.9 mmol) in a mixture of CH2Cl2 (10 mL) and acetic acid (0.2 mL) for 18 hours followed by purification of the crude material by column chromatography on silica gel (CHCl3/MeOH/NH4OH 20:2:1) afforded the title compound (500 mg, 92%) as a yellow foam.

reactant | 8-fluoro-2-tetralone | 0.97 mmol, 159 mg | FC=1C=CC=C2CCC(CC12)=O | C10H9FO
reactant | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-1,4-benzenedimethanamine | 0.97 mmol, 400 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CN)CC1=NC=CC=C1 | C20H20N4O4S
reactant | NaBH(OAc)3 | 1.9 mmol, 411 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | N-(2-nitrobenzenesulfonyl)-N-(2-pyridinylmethyl)-N′-(8-Fluoro-1,2,3,4-tetrahydro-2-naphthalenyl)-1,4-benzenedimethanamine | 500 mg, 92% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CNC1CC2=C(C=CC=C2CC1)F)CC1=NC=CC=C1 | C30H29FN4O4S
